US05929067
h) N-Methyl-N-tert-butyloxycarbonyl-amino-3-(1-tert-butyloxycarbonyl-indol-3-yl)-propanecarboxylic acid methyl ester
295 g of silver(l) oxide are added, with stirring, to a solution of 75 g of N-tert-butyloxycarbonyl-amino-3-(1-tert-butyloxycarbonyl-indol-3-yl)-propanecarboxylic acid methyl ester in 770 ml of N,N-dimethylformamide. 75 ml of methyl iodide are then added dropwise. The reaction mixture rises to a temperature of 40° and is stirred at room temperature for 2 days and then diluted with 800 ml of ethyl acetate, filtered and concentrated by evaporation. The residue is purified by chromatography (silica gel, hexane/ethyl acetate 3:2). In this way the title compound is obtained in the form of a yellow oil.

reactant | N-tert-butyloxycarbonyl-amino-3-(1-tert-butyloxycarbonyl-indol-3-yl)-propanecarboxylic acid methyl ester | 75 g | COC(=O)C(CCC1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C23H32N2O6
reactant | methyl iodide | 75 ml | CI | CH3I
solvent | N,N-dimethylformamide | 770 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
catalyst | silver | 295 g | [Ag] | Ag
product | N-Methyl-N-tert-butyloxycarbonyl-amino-3-(1-tert-butyloxycarbonyl-indol-3-yl)-propanecarboxylic acid methyl ester | COC(=O)C(CCC1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C)N(C(=O)OC(C)(C)C)C | C24H34N2O6
